US07691877B2
4-Amino-1-(6-methyl-pyridin-3-ylmethyl)-6-trifluoromethyl-1,3-dihydro-imidazo[4,5-c]pyridine-2-one
(2-Amino-3-nitro-6-trifluoromethyl-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester (27 mg, 0.07 mmol) was stirred in glacial acetic acid (5 ml) and the solution stirred at ambient temperature, 40 psi H2, in the presence of 10% Pd/C (5.4 mg, 20% wt) for 4 h. The suspension was filtered through an Arbocel pad, washed with 2×3 ml AcOH and the filtrate concentrated in vacuo. Acetonitrile (5 ml) was added to the residue and the material triturated, the resulting solid removed by filtration and dried in vacuo to afford 10.6 mg of the title compound as a white solid. 1H NMR (d6-DMSO): δ 8.45(s, 1H), 7.57-7.55(d, 1H), 7.20-7.18(d, 1H), 7.10(s, 1H), 6.20(bs, 2H), 5.01(s, 2H), 2.40(s, 3H); LRMS (APCI) m/z 324 [MH]+

reactant | (2-Amino-3-nitro-6-trifluoromethyl-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 0.07 mmol, 27 mg | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)C(F)(F)F)N)[N+](=O)[O-])=O | C16H16F3N5O4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 5.4 mg | [Pd] | Pd
product | 4-Amino-1-(6-methyl-pyridin-3-ylmethyl)-6-trifluoromethyl-1,3-dihydro-imidazo[4,5-c]pyridine-2-one | 10.6 mg | NC1=NC(=CC2=C1NC(N2CC=2C=NC(=CC2)C)=O)C(F)(F)F | C14H12F3N5O
